US09102692B2
Palladium acetate (8.4 mg, 0.037 mmol) and 2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl (X-PHOS) (35.6 mg, 0.074 mmol) were dissolved in tert-amyl alcohol (10 μl, 0.093 mmol) and anhydrous ethylene glycol dimethyl ether (0.25 ml). The mixture was heated and stirred at 60° C. for five minutes under a nitrogen atmosphere to prepare a catalyst. In a separate reaction container under a nitrogen atmosphere, 1-bromo-3,5-di-t-butyl benzene (501 mg, 1.9 mmol), lithium bis(trimethylsilyl) amide (475 mg, 2.8 mmol), and benzophenone hydrazone (401 mg, 2.0 mmol) were dissolved in anhydrous ethylene glycol dimethyl ether (2.5 ml). Then, a solution containing the prepared catalyst was added thereto. After deaeration, this was heated and stirred at 90° C. for two hours under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=100/5). Thus, N-benzhydrylidene-N′-(3,5-di-tert-butyl-phenyl)-hydrazine was obtained as a yellow amorphous material (699 mg, 97.7%).

reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl | 0.074 mmol, 35.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | tert-amyl alcohol | 0.093 mmol, 10 μl | C(C)(C)(CC)O | C5H12O
reactant | 1-bromo-3,5-di-t-butyl benzene | 1.9 mmol, 501 mg | BrC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C14H21Br
reactant | lithium bis(trimethylsilyl) amide | 2.8 mmol, 475 mg | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzophenone hydrazone | 2.0 mmol, 401 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
solvent | ethylene glycol dimethyl ether | 2.5 ml | COCCOC | C4H10O2
catalyst | Palladium acetate | 0.037 mmol, 8.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethylene glycol dimethyl ether | 0.25 ml | COCCOC | C4H10O2
product | N-benzhydrylidene-N′-(3,5-di-tert-butyl-phenyl)-hydrazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C27H32N2
